* Copyright © Linear Technology Corp. 1998, 1999, 2000, 2001, 2002, 2003, 2004, 2005, 2006.  All rights reserved.
*
.subckt level.1 1 2 3 4 5
A1 2 1 0 0 0 0 5 0 OTA G={Avol/Rout} ref={Vos} linear Cout={Cout} en={en} enk={enk} in={in} ink={ink} incm={incm} incmk={incmk} Vhigh=1e308 Vlow=-1e308 Rout={Rout}
R5 2 3 {2*Rin} noiseless
R6 1 4 {2*Rin} noiseless
R1 3 1 {2*Rin} noiseless
R2 2 4 {2*Rin} noiseless
.param Rout=.1
.param Cout={Avol/GBW/2/pi/Rout}
.param Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0
.param en=0 enk=0 in=0 ink=0 incm=0 incmk=0 Rin=1G
.ends level.1
*
.subckt level.2 1 2 3 4 5
S1 5 3 N002 5 Q
S2 4 5 5 N002 Q
A1 2 1 0 0 0 0 N002 0 OTA G={Avol/Rout} ref={Vos} Iout={slew*Cout} Cout={Cout} en={en} enk={enk} in={in} ink={ink} incm={incm} incmk={incmk} Vhigh=1e308 Vlow=-1e308
C3 5 4 1p
C4 3 5 1p
R2 N002 4 {2*Rout} noiseless
R1 3 N002 {2*Rout} noiseless
R3 3 1 {2*Rin} noiseless
R4 3 2 {2*Rin} noiseless
R5 2 4 {2*Rin} noiseless
R6 1 4 {2*Rin} noiseless
G1 0 N002 4 N002 table(0 0 10 {2*slew*Cout})
G2 N002 0 N002 3 table(0 0 10 {2*slew*Cout})
.param Rout=100Meg
.param Cout={Avol/GBW/2/pi/Rout}
.model Q SW(Ron=10 Roff=10Meg Vt=0 Vh=-.1 Vser={Rail} ilimit={Ilimit} noiseless level=2 epsilon={Rail/10})
.param Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0
.param en=0 enk=0 in=0 ink=0 incm=0 incmk=0 Rin=1G
.ends level.2
*
.subckt level.3a 1 2 3 4 5
S1 5 3 N003 5 Q
S2 4 5 5 N003 Q
A1 2 1 0 0 0 0 N002 0 OTA G={Avol/Rout} ref={Vos} Iout={slew*Cout} Cout={Cout} en={en} enk={enk} in={in} ink={ink} incm={incm} incmk={incmk} Vhigh=1e308 Vlow=-1e308
C3 5 4 1p
C4 3 5 1p
R3 3 2 {2*Rin} noiseless
G1 0 N003 N002 0 {1/Rout}
R2 N003 0 {Rout} noiseless
C1 N003 0 {X*Cout/Avol}
R4 3 1 {2*Rin} noiseless
R5 1 4 {2*Rin} noiseless
R6 2 4 {2*Rin} noiseless
G2 0 N002 4 N002 table(0 0 10 {2*slew*Cout})
G3 N002 0 N002 3 table(0 0 10 {2*slew*Cout})
R1 N002 4 {2*Rout} noiseless
R7 3 N002 {2*Rout} noiseless
.param Rout=100Meg
.param Cout={Avol/GBW/2/pi/Rout}
.model Q SW(Ron=10 Roff=10Meg Vt=0 Vh=-.1 Vser={Rail} ilimit={Ilimit} noiseless level=2 epsilon={Rail/10})
.param Avol=1Meg GBW=10Meg Slew=10Meg rail=0 Vos=0 ilimit=25m
.param en=0 enk=0 in=0 ink=0 incm=0 incmk=0 Rin=1G phimargin=45
.param X table(phimargin,29.4,3.5,32.1,2.9,33.8,2.6,35.8,2.3,38.1,2,40.9,1.7,43.2,1.5,45.9,1.3,49.2,1.1,53.2,0.9,58.2,0.7,64.7,0.5,73,0.3,86.1,0.05)
.ends level.3a
*
.subckt level.3b 1 2 3 4 5
S1 5 3 N007 5 Q
S2 4 5 5 N007 Q
A1 2 1 0 0 0 0 N002 0 OTA G={Avol/Rout} ref={Vos} Iout={slew*Cout} Cout={Cout} en={en} enk={enk} in={in} ink={ink} incm={incm} incmk={incmk} Vhigh=1e308 Vlow=-1e308
C3 5 4 1p
C4 3 5 1p
R3 3 2 {2*Rin} noiseless
R4 3 1 {2*Rin} noiseless
R5 1 4 {2*Rin} noiseless
R6 2 4 {2*Rin} noiseless
G2 0 N007 N006 0 10µ
R9 0 N007 100K noiseless
G1 0 N003 N002 0 {2/Rz}
C1 N003 0 {.768*Cd}
L1 N003 N004 41.2µ
R1 N003 0 {Rz} noiseless
R2 N006 0 {Rz} noiseless
L2 N004 N005 23.8µ
L3 N005 N006 11.04µ
C2 N004 0 {.294*Cd}
C5 N005 0 {.178*Cd}
C6 N006 0 {.0375*Cd}
G3 0 N002 4 N002 table(0 0 10 {2*slew*Cout})
G4 N002 0 N002 3 table(0 0 10 {2*slew*Cout})
R7 3 N002 {2*Rout} noiseless
R8 N002 4 {2*Rout} noiseless
.param Rout=100Meg
.param Cout={Avol/GBW/2/pi/Rout}
.model Q SW(Ron=10 Roff=10Meg Vt=0 Vh=-.1 Vser={Rail} ilimit={Ilimit} noiseless level=2 epsilon={Rail/10})
.param Avol=1Meg GBW=10Meg Slew=10Meg rail=0 Vos=0 ilimit=25m
.param en=0 enk=0 in=0 ink=0 incm=0 incmk=0 Rin=1G phimargin=45
.param delay=(90-MIN(phimargin,89))/360/GBW
.param Rz=sqrt(100u/Cd)
.param Cd=delay*delay/100u
.ends level.3b
